### PR TITLE
[Merged by Bors] - chore: rename injectivity of `Prod.mk` lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
The current names are ancient and do not reflect the naming convention anymore.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Prod/Basic.lean [hunk 1]
```diff
@@ -60,21 +60,31 @@ theorem map_snd' (f : α → γ) (g : β → δ) : Prod.snd ∘ map f g = g ∘
...
-theorem mk.inj_right {α β : Type*} (b : β) :
+theorem mk_right_injective {α β : Type*} (b : β) :
     Function.Injective (fun a ↦ Prod.mk a b : α → α × β) := by
   intro b₁ b₂ h
-  simpa only [and_true, eq_self_iff_true, mk.inj_iff] using h
+  simpa only [and_true, eq_self_iff_true, mk_inj] using h
+
+@[deprecated (since := "2025-03-06")] alias mk.inj_right := mk_right_injective
+
+lemma mk_left_inj {a : α} {b₁ b₂ : β} : (a, b₁) = (a, b₂) ↔ b₁ = b₂ := (mk_left_injective _).eq_iff
```
Comment (grunweg) [inline Mathlib/Data/Prod/Basic.lean:81]: Wait: per the naming convention, this should be `mk_right_inj`, right?
> An injectivity lemma that uses "left" or "right" should refer to the argument that "changes". For example, a lemma with the statement a - b = a - c ↔ b = c could be called sub_right_inj.

File: Mathlib/Data/Prod/Basic.lean [hunk 2]
```diff
@@ -60,21 +60,31 @@ theorem map_snd' (f : α → γ) (g : β → δ) : Prod.snd ∘ map f g = g ∘
...
 
-lemma mk_inj_left {a : α} {b₁ b₂ : β} : (a, b₁) = (a, b₂) ↔ b₁ = b₂ := (mk.inj_left _).eq_iff
+lemma mk_right_inj {a₁ a₂ : α} {b : β} : (a₁, b) = (a₂, b) ↔ a₁ = a₂ :=
```
Comment (grunweg) [inline Mathlib/Data/Prod/Basic.lean:83]: Same question as above.

File: Mathlib/Data/Prod/Basic.lean [hunk 3]
```diff
@@ -60,21 +60,31 @@ theorem map_snd' (f : α → γ) (g : β → δ) : Prod.snd ∘ map f g = g ∘
...
 -- Porting note: `@[simp]` tag removed because auto-generated `mk.injEq` simplifies LHS
 -- @[simp]
-theorem mk.inj_iff {a₁ a₂ : α} {b₁ b₂ : β} : (a₁, b₁) = (a₂, b₂) ↔ a₁ = a₂ ∧ b₁ = b₂ :=
+theorem mk_inj {a₁ a₂ : α} {b₁ b₂ : β} : (a₁, b₁) = (a₂, b₂) ↔ a₁ = a₂ ∧ b₁ = b₂ :=
   Iff.of_eq (mk.injEq _ _ _ _)
 
-theorem mk.inj_left {α β : Type*} (a : α) : Function.Injective (Prod.mk a : β → α × β) := by
+@[deprecated (since := "2025-03-06")] alias mk.inj_iff := mk_inj
+
+theorem mk_left_injective {α β : Type*} (a : α) : Function.Injective (Prod.mk a : β → α × β) := by
```
Comment (grunweg) [inline Mathlib/Data/Prod/Basic.lean:68]: Actually: are you sure this lemma should be named "left"? This seems to contradict the naming convention (see below).

**Review by grunweg — COMMENTED** [review]
The code changes do what they say - and are clearly an improvement.

However, the left/right terminology contradicts the naming convention (I think, at this time of the evening, I'm not 100% sure any more).

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by fpvandoorn** [comment]
bors merge
